US07820694B2
Benzyl-(4,5,6,7-tetramethyl-indan-2-yl)amine
1M Lithium aluminium hydride (2.4 ml) in tetrahydrofuran is added dropwise to a solution of N-(4,5,6,7-tetramethyl-indan-2-yl)-benzamide. (352 mg) in anhydrous THF (10 ml) under nitrogen at room temperature. The reaction mixture is allowed to stir at 50° C. for 20 hours. After 4 hours more 1M Lithium aluminium hydride (1.2 ml, 1.20 mmole) in THF is added. On cooling the reaction mixture is quenched with ice water. The aqueous phase is washed with diethyl ether (×3) and the organic layers combined, treated with magnesium sulphate, filtered and the solvent removed in vacuo.

reactant | Lithium aluminium hydride | 1M, 2.4 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | N-(4,5,6,7-tetramethyl-indan-2-yl)-benzamide | CC1=C2CC(CC2=C(C(=C1C)C)C)NC(C1=CC=CC=C1)=O | C20H23NO
reactant | Lithium aluminium hydride | 1.20 mmole, 1M, 1.2 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | Benzyl-(4,5,6,7-tetramethyl-indan-2-yl)amine | C(C1=CC=CC=C1)NC1CC2=C(C(=C(C(=C2C1)C)C)C)C | C20H25N
